US08138377B2
(2) (1S,5R)-1-(3,4-Dichlorophenyl)-3-oxabicyclo[3.1.0]hexan-2-one
(1S)-1-(3,4-dichloro-phenyl)-2-hydroxymethyl cyclopropanecarbonitrile (10 g, 4.13 mmol), ethanol (20 mL) and 25N sodium hydroxide solution (10 mL) were heated under reflux for 18 hours. The reaction is monitored by TLC (dichloromethane (100%)). The reaction mixture was cooled to room temperature and ice cold water (10 mL) was added to the reaction mass followed by concentrated hydrochloric acid drop wise to adjust the pH of the reaction mass to 1-2 and stirred for overnight at room temperature. The aqueous layer was extracted with dichloromethane (100 mL). The organic layer was washed with 3% sodium bicarbonate solution, dried over anhydrous sodium sulphate, filtered and evaporated under reduced pressure to yield 4.5 g (45%) of product. 1H NMR δ(300 MHz,CDCl3): 1.41-1.43 (1H,t, J=4.9 Hz), 1.58-1.63 (1H,dd, J=7.79,4.94 Hz), 2.56-2.62 (1H,m), 4.28-4.31 (1H,d, J=9.3 Hz), 4.44-4.48 (1H,dd, J=9.34,4.58 Hz), 7.26-7.30 (1H,dd, J=8.2,2.0 Hz), 7.40-7.43 (1H,d, J=8.2 Hz), 7.52-7.53 (1H,d, J=2 Hz).

reactant | (1S)-1-(3,4-dichloro-phenyl)-2-hydroxymethyl cyclopropanecarbonitrile | 4.13 mmol, 10 g | ClC=1C=C(C=CC1Cl)[C@]1(C(C1)CO)C#N | C11H9Cl2NO
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 25N, 10 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1S,5R)-1-(3,4-Dichlorophenyl)-3-oxabicyclo[3.1.0]hexan-2-one | 4.5 g, 45% | ClC=1C=C(C=CC1Cl)[C@]12C(OC[C@@H]2C1)=O | C11H8Cl2O2
